US08791132B2
To a solution of 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (250 mg, 1.25 mmol) in NMP (1 mL) were added powdered KOH (490 mg, 8.75 mmol) and 3-methyl-2-vinyl-thiophene (310 mg, 2.25 mmol), and the reaction mixture stirred at 90° C. for 5 h. The reaction mixture was diluted with water (20 mL) and extracted with EtOAc (3×20 mL). The combined organic layer was washed with water (5×25 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by reverse phase HPLC to yield 2,8-dimethyl-5-[2-(3-methyl-thiophen-2-yl)-ethyl]-2,5-dihydro-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.25 (d, 1H), 7.22 (s, 1H), 7.1 (d, 1H), 7.02 (d, 1H), 6.7 (d, 1H), 4.41 (s, 2H), 4.3 (t, 2H), 2.42 (bs, 2H), 3.2 (t, 2H), 3.0 (s, 3H), 2.61 (bs, 2H), 2.4 (s, 3H), 1.6 (s, 3H).

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.25 mmol, 250 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | KOH | 8.75 mmol, 490 mg | [OH-].[K+]
reactant | 3-methyl-2-vinyl-thiophene | 2.25 mmol, 310 mg | CC1=C(SC=C1)C=C | C7H8S
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | water | 20 mL | O | H2O
product | 2,8-dimethyl-5-[2-(3-methyl-thiophen-2-yl)-ethyl]-2,5-dihydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2SC=CC2C)C=C1 | C20H22N2S
